US08877760B2
The mixture of tert-tutyl ((1S,2R)-2-((6-chloro-5-cyanopyrazin-2-yl)amino)cyclohexyl)carbamate (100 mg, 0.28 mmol), pyrazolo[1,5-a]pyridin-3-amine dihydrochloride (118 mg, 0.56 mmol), powder cesium carbonate (730 mg, 2.24 mmol), BINAP (62 mg, 0.1 mmol), Pd(OAc)2 (22 mg, 0.1 mmol) in 20 mL dioxane was degassed with argon stream. It was stirred in argon atmosphere at 110° C. for 1 h. The mixture was cooled, diluted with 100 mL EtOAc, vigorously stirred, and filtered through celite. The filtrate was concentrated and subjected to silica flash column with 0-60% EtOAc in hexane to isolate tert-butyl ((1S,2R)-2-((5-carbamoyl-6-(pyrazolo[1,5-a]pyridin-3-ylamino)pyrazin-2-yl)amino)cyclohexyl)carbamate. It was then stirred in 5 mL TFA at RT for 1 h, and concentrated in vacuo till complete dryness. The residue was further diluted with heptane and concentrated to dryness. This residue was dissolved in 10 ml, MeOH and 2 mL DMSO. To the solution were added KOH (100 mg) and then 1 mL of H2O2 (50%). The mixture was stirred at RT for 30 m, quenched with acetonitrile and then TFA, concentrated in vacuo and subjected to reverse phase preparative HPLC to isolate the title compound (72 mg). MS found for C18H22N8O as (M+H)+ 367.5. UV: λ=292 nm. 1H NMR: (CD3OD) δ 8.47 (1H, m), 8.23 (1H, m), 7.56 (1H, m), 7.45 (1H, m), 7.21 (1H, m), 6.91 (1H, m), 4.18 (1H, m), 3.55 (1H, m), 1.74-1.53 (8H, m) ppm.

reactant | ((1S,2R)-2-((6-chloro-5-cyanopyrazin-2-yl)amino)cyclohexyl)carbamate | 0.28 mmol, 100 mg | ClC1=C(N=CC(=N1)N[C@H]1[C@H](CCCC1)NC([O-])=O)C#N
reactant | pyrazolo[1,5-a]pyridin-3-amine dihydrochloride | 0.56 mmol, 118 mg | Cl.Cl.N1=CC(=C2N1C=CC=C2)N
reactant | cesium carbonate | 2.24 mmol, 730 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.1 mmol, 62 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.1 mmol, 22 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-butyl ((1S,2R)-2-((5-carbamoyl-6-(pyrazolo[1,5-a]pyridin-3-ylamino)pyrazin-2-yl)amino)cyclohexyl)carbamate | C(N)(=O)C=1N=CC(=NC1NC=1C=NN2C1C=CC=C2)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O | C23H30N8O3
